US09302991B2
<Step-1>: 3-amino-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)picolinamide (single enantiomer)
The title compound is prepared in 74% yield (98 mg, a white solid) from (−)-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride (100 mg, 0.39 mmol, Amine-1, single enantiomer) and 3-aminopicolinic acid (54 mg, 0.39 mmol) by the similar manner in Step-1 of Example-8.

reactant | (−)-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride | 0.39 mmol, 100 mg | Cl.FC(COC1=CC=C(C=N1)C(C)N)(F)F
reactant | 3-aminopicolinic acid | 0.39 mmol, 54 mg | NC=1C(=NC=CC1)C(=O)O | C6H6N2O2
product | 3-amino-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)picolinamide | 74% yield | NC=1C(=NC=CC1)C(=O)NC(C)C=1C=NC(=CC1)OCC(F)(F)F | C15H15F3N4O2
